US05591751
To a solution of 62 ml of chloroacetyl chloride in 600 ml of carbon disulfide were added, with ice-cooling, 173 g of aluminum chloride and 44 g of 8-ethylcarbostyril in this order. The mixture was refluxed for 6 hours. The reaction mixture was subjected to distillation to remove carbon disulfide. The residue was poured into ice water. The mixture was stirred at room temperature overnight. The insoluble portion was collected by filtration, washed with water and dried to obtain 55 g of 6-chloroacetyl-8-ethylcarbostyril as a brown powder.

reactant | chloroacetyl chloride | 62 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminum chloride | 173 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 8-ethylcarbostyril | 44 g | C(C)C=1C=CC=C2C=CC(NC12)=O | C11H11NO
solvent | carbon disulfide | 600 ml | C(=S)=S | CS2
product | 6-chloroacetyl-8-ethylcarbostyril | 55 g | ClCC(=O)C=1C=C2C=CC(NC2=C(C1)CC)=O | C13H12ClNO2
